US04598077
To 10 ml of p-tolualdehyde, were added 180 ml of ethanol, 9.8 g of malonic acid, and 15.8 g of ammonium acetate. The mixture was refluxed for 5 hours. After cooling, the insolubles were removed by filtration. After addition of 100 ml of water, the filtrate was adjusted to pH 7.0 with 1N hydrochloric acid, and the precipitated crystals were collected by filtration to yield 5.4 g of β-amino-β-(4-methylphenyl)propionic acid; m.p. 228°-229° C.

reactant | p-tolualdehyde | 10 ml | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | malonic acid | 9.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 15.8 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | β-amino-β-(4-methylphenyl)propionic acid | 5.4 g | NC(CC(=O)O)C1=CC=C(C=C1)C | C10H13NO2
